US09315458B2
D) rac-2-(trans-2-hydroxycyclohexyl)-6-((6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl)methyl)isoindolin-1-one
To a solution of rac-6-((6-chloropyridin-3-yl)methyl)-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one (0.09 g) in a mixed solvent of THF (9.00 mL)-water (3.00 mL) were added 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.11 g), cesium carbonate (0.33 g) and bis(tri-tert-butylphosphine)palladium(0) (0.03 g), and the mixture was stirred overnight at 85° C. under argon atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate) to give the title compound (0.03 g).

reactant | rac-6-((6-chloropyridin-3-yl)methyl)-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one | 0.09 g | ClC1=CC=C(C=N1)CC1=CC=C2CN(C(C2=C1)=O)[C@H]1[C@@H](CCCC1)O | C20H21ClN2O2
reactant | THF | 9.00 mL | C1CCOC1 | C4H8O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.11 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | cesium carbonate | 0.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.03 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | O | H2O
solvent | water | 3.00 mL | O | H2O
product | rac-2-(trans-2-hydroxycyclohexyl)-6-((6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl)methyl)isoindolin-1-one | 0.03 g | O[C@H]1[C@@H](CCCC1)N1C(C2=CC(=CC=C2C1)CC=1C=NC(=CC1)C=1C=NN(C1)C)=O | C24H26N4O2
